US08383631B2
3-amino-1-{(4-phenylpiperazin-1-yl)propanoyl}-6-N-{p-(dimethylamino)phenyl}-4,5,6,7-tetrahydro-1H-pyrazolo[3,4-c]pyridin-7-one (Compound 18)
A target compound (15.4 mg, 0.031 mmol, 7.8%) was yielded as solid in the same manner as Example 1 by reacting 3-amino-6-N-(4-(dimethylamino)phenyl)-5,6-dihydro-1H-pyrazolo[3,4-c]pyridin-7(4H)-one (110 mg, 0.405 mmol) with potassium carbonate (83.9 mg, 0.607 mmol) and 3-chloro-1-(4-phenylpiperazin-1-yl)propan-1-one (112.4 mg, 0.445 mmol).

reactant | 3-amino-6-N-(4-(dimethylamino)phenyl)-5,6-dihydro-1H-pyrazolo[3,4-c]pyridin-7(4H)-one | 0.405 mmol, 110 mg | NC1=NNC=2C(N(CCC21)C2=CC=C(C=C2)N(C)C)=O | C14H17N5O
reactant | potassium carbonate | 0.607 mmol, 83.9 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3-chloro-1-(4-phenylpiperazin-1-yl)propan-1-one | 0.445 mmol, 112.4 mg | ClCCC(=O)N1CCN(CC1)C1=CC=CC=C1 | C13H17ClN2O
product | 3-amino-1-{(4-phenylpiperazin-1-yl)propanoyl}-6-N-{p-(dimethylamino)phenyl}-4,5,6,7-tetrahydro-1H-pyrazolo[3,4-c]pyridin-7-one | NC1=NN(C=2C(N(CCC21)C2=CC=C(C=C2)N(C)C)=O)C(CCN2CCN(CC2)C2=CC=CC=C2)=O | C27H33N7O2
